US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(piperazin-1-yl)quinoxaline-6-carboxylate (180 mg, 0.49 mmol) in dichloromethane (10 ml) was added Et3N (59 mg, 0.59 mmol) and then acetyl chloride (39 mg, 0.59 mmol) was added dropwise. The resulting solution was stirred for 1 hour at room temperature and then quenched by the addition of ice-water (100 ml) and extracted with dichloromethane (3×15 ml). The organic layers were combined and dried over anhydrous magnesium sulfate and concentrated in vacuo to afford methyl 3-(4-acetylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow solid (103 mg, 51%).

reactant | methyl 2-(4-fluorophenyl)-3-(piperazin-1-yl)quinoxaline-6-carboxylate | 0.49 mmol, 180 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCNCC1)C(=O)OC | C20H19FN4O2
reactant | Et3N | 0.59 mmol, 59 mg | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.59 mmol, 39 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 3-(4-acetylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 103 mg, 51% | C(C)(=O)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C22H21FN4O3
